US07087599B2
A solution of 2-butyl-6-fluoro-5-methoxy-4-methyl-1-indanone (118 mg, 0.47 mmol) in anhydrous tetrahydrofuran (0.47 mL) was treated with propyl vinyl ketone (0.065 mL, 0.56 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (0.0143 mL, 0.094 mmol). The mixture was stirred and heated in an oil bath at 50° C. for 6 hours and then at room temperature for 64 hours. The solvent was evaporated under vacuum to give a residue consisting mainly of 2-butyl-6-fluoro-5-methoxy-4-methyl-2-(3-oxohexyl)-1-indanone. This material was dissolved in acetic acid (2 mL), treated with aqueous 6N HCl (1.5 mL), and stirred while heating in an 80° C. oil bath for 6 hours. After cooling, the mixture was partitioned between EtOAc (25 mL) and saturated aqueous K2CO3 (25 mL). The organic phase was washed with brine (10 mL), dried over MgSO4, filtered, and evaporated under vacuum to an oil (138 mg). The crude product was purified by preparative layer chromatography on two 0.1×20×20 cm silica gel GF plates, developing with CH2Cl2. The product bands were eluted with EtOAc and the eluent evaporated under vacuum to afford 9a-butyl-4-ethyl-6-fluoro-7-methoxy-8-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one (93 mg) as an oil.

reactant | 2-butyl-6-fluoro-5-methoxy-4-methyl-1-indanone | 0.47 mmol, 118 mg | C(CCC)C1C(C2=CC(=C(C(=C2C1)C)OC)F)=O | C15H19FO2
reactant | propyl vinyl ketone | 0.56 mmol, 0.065 mL | C(=C)C(=O)CCC | C6H10O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.094 mmol, 0.0143 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 2-butyl-6-fluoro-5-methoxy-4-methyl-2-(3-oxohexyl)-1-indanone | C(CCC)C1(C(C2=CC(=C(C(=C2C1)C)OC)F)=O)CCC(CCC)=O | C21H29FO3
reactant | HCl | 6N, 1.5 mL | Cl | ClH
solvent | tetrahydrofuran | 0.47 mL | O1CCCC1 | C4H8O
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 9a-butyl-4-ethyl-6-fluoro-7-methoxy-8-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 93 mg | C(CCC)C12CC3=C(C(=C(C=C3C2=C(C(CC1)=O)CC)F)OC)C | C21H27FO2
